US07498337B2
2-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
A solution (15 mL) of ethyl 2-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate (980 mg) in tetrahydrofuran was cooled to −78° C., a 1.5 mol/L solution (5.3 mL) of diisobutylaluminum hydride in toluene was added dropwise over 10 min., and the mixture was warmed to 0° C. over 2 hr. Water (100 mL) and ethyl acetate (20 mL) were added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was filtered through celite, and the organic layer was collected, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in acetonitrile solution (25 mL), tetra-n-propylammonium perruthenate (93 mg), N-methylmorpholine N-oxide hydrate (466 mg) and molecular sieves 4A powder (500 mg) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate (30 mL) was added to the residue. The mixture was filtered through celite, and celite was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→1:1) to give the title compound as a yellow oil (yield 235 mg, 27%).

reactant | ethyl 2-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate | 15 mL, 980 mg | CC=1N(C(=CC1C(=O)OCC)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=CC1 | C19H18N2O4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | 100 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 235 mg, 27% | CC=1N(C(=CC1C=O)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=CC1 | C17H14N2O3S
